US09428511B2
A solution of 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide (2.198 g, 7.98 mmol), (3S,4S)-benzyl 3-amino-4-methylpyrrolidine-1-carboxylate (2.15 g, 9.18 mmol) and Hunig's Base (4.18 ml, 23.94 mmol) in DMF (7.9 ml) in a reaction vial was stirred at 90° C. for 2 h. After cooling to room temperature, the reaction solution was added slowly to a stirred ice-water resulting in a light tan precipitate. The suspension was stirred for 30 min. (3S,4S)-Benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-methylpyrrolidine-1-carboxylate (3.78 g, 7.98 mmol, 100% yield) was collected as a light tan solid via filtration. ESI-MS (analytical LCMS Method A): m/z 473, 475 ([M+H]+). HPLC (analytical HPLC Method A) Rt: 3.808 min.

reactant | 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide | 7.98 mmol, 2.198 g | BrC=1N=C2N(N=CC(=C2Cl)C(=O)N)C1 | C7H4BrClN4O
reactant | (3S,4S)-benzyl 3-amino-4-methylpyrrolidine-1-carboxylate | 9.18 mmol, 2.15 g | N[C@@H]1CN(C[C@@H]1C)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | Hunig's Base | 23.94 mmol, 4.18 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 7.9 ml | CN(C)C=O | C3H7NO
product | (3S,4S)-Benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-methylpyrrolidine-1-carboxylate | 7.98 mmol, 3.78 g, 100% yield | BrC=1N=C2N(N=CC(=C2N[C@@H]2CN(C[C@@H]2C)C(=O)OCC2=CC=CC=C2)C(N)=O)C1 | C20H21BrN6O3
